US04001226
7-(2-thienylacetamido)-3-(phenylthio)carbonylamino-3-cephem-4-carboxylic acid
To a cooled (5°) stirred solution of 68 mg. of benzhydryl 7-(2-thienylacetamido)-3-(phenylthio)carbonylamino-3-cephem-4-carboxylate in 1 ml. of anisole was added 1 ml. of cold trifluoroacetic acid. The reaction mixture was allowed to stir with cooling for 20 minutes after which time was added approximately 30 ml. of n-heptane. The resulting solution was evaporated in vacuo to a low volume. An additional 5 ml. of n-heptane was added, and the resulting solution was stirred in an ice bath for 5 minutes. The solution was filtered, and the precipitate thereby obtained was dissolved in acetone. The acetone solution was then filtered, and the filtrate evaporated in vacuo to dryness. The solution obtained by dissolving the residue in ethyl acetate was extracted twice with aqueous sodium bicarbonate solution. The aqueous extracts were combined, layered with cold ethyl acetate and acidified with cold 1N.HCl. The ethyl acetate layer was separated, washed with brine, dried over anhydrous sodium sulfate, and evaporated in vacuo to dryness to provide 33 mg. of the title product as a white solid.

reactant | benzhydryl 7-(2-thienylacetamido)-3-(phenylthio)carbonylamino-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)NC(=O)SC2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C33H27N3O5S3
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | n-heptane | CCCCCCC | C7H16
solvent | acetone | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(2-thienylacetamido)-3-(phenylthio)carbonylamino-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)NC(=O)SC2=CC=CC=C2)C(=O)O)C1=O | C20H17N3O5S3
